US05728799
b) Preparation of 4,4'-diamino-6-cyanobenzanilide (DACYB)
350 ml of oleum (30% by weight) was cooled down below 0° C. using an ice bath, 99.6 g (0.368 mol) of 4,4'-diamino-6-carbamoyl benzanilide in a powder form was added below 5° C. with stirring. The stirring was continued to the next day, and the solution was neutralized by adding 1100 ml of NH4OH (28% by weight) already cooled down to -5° to 0° C. The solution was sufficiently washed to remove salt by filtering and washed with a small amount of warm ethanol and then dried in a vacuum oven at 80° C. The dried reactant which was mixed with by-products was extracted by soxlet and treated with the activated carbon and then ethanol was added to recrystallize in the mixture solvent (acetone:ethanol=1:1). The light yellow-scalelike crystal was filtered and dried in a vacuum oven at 80° C. The light yellow-scalelike crystal was extracted again by soxlet with acetone and treated with the activated carbon. And then the white-scalelike crystal obtained by recrystalling in the mixture solvent (acetone:ethanol=1:1) was dried in a vacuum oven at 80° C. (40 g of the raw material was obtained and the boiling point thereof was 250° to 251° C.).

reactant | oleum | 350 ml | OS(=O)(=O)O.O=S(=O)=O
reactant | 4,4'-diamino-6-carbamoyl benzanilide | 0.368 mol, 99.6 g | NC1=CC=C(C(=O)NC2=CC=C(C=C2)N)C(=C1)C(N)=O | C14H14N4O2
reactant | NH4OH | 1100 ml | [NH4+].[OH-]
reactant | acetone | CC(=O)C | C3H6O
solvent | ethanol | C(C)O | C2H6O
product | 4,4'-diamino-6-cyanobenzanilide | NC1=CC=C(C(=O)NC2=CC=C(C=C2)N)C(=C1)C#N | C14H12N4O
